* OPA1632 - Operational-amplifier SPICE MODEL
*
* Classification: High-performance, precision, differential-in/ differential-out
*
* Model Definition by Precision Analog, Linear Products group (tek) - Texas Instruments Inc.
*
* OPA1632 MODEL (Netlist Editor format)
***************************************************************************
** (C) Copyright 2009 Texas Instruments Incorporated. All rights reserved.
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed or implied, 
** with respect to this  model, including the warranties of merchantability or fitness 
** for a particular purpose. The model is provided solely on an "as is" basis. The entire
** risk as to its quality and performance is with the customer.         
***************************************************************************
*  Rev. A - 15 January 2005, by W.K. SANDS         
*  Rev. B - 20 March 2009, by W.K. SANDS
*           a) improved convergence
*           b) improved voltage and current noise vs. frequency
*           c) added closed-loop output impedance vs. frequency
*           d) added PSRR vs. frequency
*
*  This macromodel has been optimized to model the AC, DC, noise, and transient response performance within 
*  the device data sheet specified limits. Correct operation of this macromodel has been verified on
*  MicroSim P-Spice ver. 8.0, DesignSoft TINA, and on PENZAR Development TopSPICE ver. 6.82d. For help
*  with other analog simulation software, please consult your software supplier.
*
***************************************************************************
* BEGIN MODEL OPA1632
* MODEL OPERATES FROM -40 TO +125 C
* SOME PARAMETERS DO NOT TRACK THOSE
* OF THE REAL PART VS TEMPERATURE
* MODEL FEATURES INCLUDE:
* OPEN LOOP GAIN, CLOSED LOOP BANDWIDTH, SLEW RATE,
* INPUT VOLTAGE NOISE WITH 1/F,
* INPUT CURRENT NOISE WITH 1/F,
* VOCM FUNCTION, OUTPUT SWING VS CURRENT
* CMRR, PSRR, VOS, TCVOS, OUTPUT CURRENT LIMIT
* OUTPUT CURRENT IS DRAWN THROUGH SUPPLY RAILS
* OUTPUT IMPEDANCE, INPUT CAPACITANCE
* INPUT BIAS CURRENT, QUIESCENT CURRENT,
* SHUTDOWN, QUIESCENT AT SHUTDOWN,
* AND SHUTDOWN ENABLE AND DISABLE TIME DELAYS.
* END FEATURES
* PINOUT ORDER VIN- VOCM V+ VOUT+ VOUT- V- EN VIN+
* PINOUT ORDER  1     2   3   4     5    6  7   8
.SUBCKT OPA1632 1 2 3 4 5 6 7 8
R51 6 2 30E3
R52 2 3 30E3
C3 5 9 1E-15
C4 9 4 1E-15
C8 8 10 4E-12
C9 1 11 4E-12
R62 0 10 0.1
R63 0 11 0.1
Q18 6 12 13 QOP
Q22 3 14 13 QON
R176 0 5 1E6
D6 5 3 DD
D7 6 5 DD
D8 15 0 DIN
D9 16 0 DIN
I9 0 15 0.1E-3
I10 0 16 0.1E-3
E5 17 0 6 0 1
E6 18 0 3 0 1
D10 19 0 DVN
D11 20 0 DVN
I11 0 19 0.1E-3
I12 0 20 0.1E-3
E7 8 21 19 20 0.163
G3 22 21 15 16 1.5E-22
I13 3 6 1E-6
R178 6 3 1E8
E8 23 0 18 24 1
E9 25 0 17 24 1
E10 26 0 27 0 1
R179 23 28 1E5
R180 25 29 1E5
R181 26 30 1E5
R182 0 28 10
R183 0 29 10
R184 0 30 10
E11 31 1 30 0 0.31
R185 32 27 1E3
R186 27 33 1E3
C18 23 28 1E-12
C19 25 29 0.25E-12
C20 26 30 1E-12
E12 34 31 29 0 -0.06
E13 35 34 28 0 0.06
Q29 18 36 12 QON
Q30 17 36 14 QOP
G7 37 24 38 24 0.1
G8 36 24 37 24 0.1
R187 24 37 10
R188 24 36 10
C22 37 24 2E-10
C23 36 24 2E-14
R191 13 5 5
E19 32 0 21 24 1
E20 33 0 22 24 1
Q34 6 39 40 QOP
Q35 3 41 40 QON
R197 0 4 1E6
D22 4 3 DD
D23 6 4 DD
E21 42 0 6 0 1
E22 43 0 3 0 1
I24 3 6 1E-6
R199 6 3 1E8
Q40 43 44 39 QON
Q41 42 44 41 QOP
G11 45 24 46 24 0.1
G12 44 24 45 24 0.1
R208 24 45 10
R209 24 44 10
C31 45 24 2E-10
C32 44 24 2E-14
R212 40 4 5
G22 43 41 47 0 0.55E-3
G23 39 42 47 0 0.55E-3
G25 18 14 47 0 0.55E-3
G26 12 17 47 0 0.55E-3
G29 3 6 48 0 11.65E-3
E54 49 0 47 0 1
V31 49 48 0
M44 50 7 17 17 NEO L=3U W=300U
M45 51 52 17 17 NEN L=3U W=3000U
R306 50 18 1E4
R307 51 53 1E6
V52 53 17 1
C62 7 0 1E-12
E55 54 0 55 17 1
V53 51 56 1.111E-6
R308 17 56 1E12
C63 18 50 3E-15
C64 53 51 2.5E-15
M50 57 50 17 17 NEN L=3U W=300U
M51 52 57 17 17 NEN L=3U W=300U
R309 57 53 1E4
R310 52 53 1E4
C65 53 57 160E-12
C106 53 52 300E-12
V54 47 54 0.07U
R312 0 54 1E12
R313 0 47 1E12
R314 0 47 1E12
R315 47 0 1E12
R316 47 0 1E12
R317 48 0 1E12
R318 48 0 1E12
E56 9 4 5 4 0.5
E60 58 59 47 0 45
E61 60 38 47 0 -45
V57 61 60 22.5
V58 62 58 -22.5
R328 58 24 1E12
R329 60 24 1E12
M52 38 62 59 63 PSW L=1.5U W=15000U
M53 59 61 38 64 NSW L=1.5U W=15000U
R330 63 24 1E12
R331 64 24 1E12
E62 24 6 3 6 0.5
R332 46 59 0.1
Q42 65 66 67 QIN
Q43 68 21 69 QIN
R338 70 67 15
R339 70 69 15
Q44 71 72 65 QIP
Q45 73 72 68 QIP
Q46 71 74 75 QIN
Q47 73 74 76 QIN
R340 17 75 333
R341 17 76 333
I39 77 78 2.1E-5
I40 79 65 2.1E-3
I41 79 68 2.1E-3
V63 79 72 1.67
Q48 80 81 82 QCP
Q49 74 74 83 QCN
Q50 74 2 84 QCP
R342 82 85 200
R343 84 85 200
I42 3 85 1.05E-3
Q51 80 80 86 QCN
R344 6 86 666
R345 6 83 666
C109 87 71 19.5E-12
C110 73 88 19.5E-12
R346 24 87 60
R347 24 88 60
R348 71 73 7E5
R349 55 51 1E8
C111 55 0 1.5E-14
Q53 70 78 77 QSN
V64 18 79 1.2
V65 77 17 1
I44 0 89 1E-3
D36 89 0 DD
V66 89 90 0.6551
R351 89 0 1E9
E68 22 35 90 0 140E-6
R352 0 90 1E9
V69 66 22 50E-6
V70 81 91 16.15E-3
E69 91 9 90 0 -0.0285
R353 35 22 1E9
R354 34 35 1E9
R355 31 34 1E9
R356 1 31 1E9
R357 6 24 1E9
R358 9 91 1E9
R359 9 4 1E9
R360 7 18 5E4
D37 92 18 DD
D38 93 18 DD
D39 17 94 DD
D40 17 95 DD
V71 92 46 2.14
V72 93 38 2.14
V73 46 94 2.18
V74 38 95 2.18
I45 22 0 1.48E-6
I46 21 0 1.48E-6
G35 3 6 3 6 -15E-6
I47 6 3 0.242E-3
R361 21 8 1E9
V75 38 73 0.55
V76 46 71 0.55
.MODEL PSW PMOS KP=200U VTO=-7.5 IS=1E-18
.MODEL NSW NMOS KP=200U VTO=7.5 IS=1E-18
.MODEL QSN NPN
.MODEL QCN NPN
.MODEL QCP PNP
.MODEL QON NPN VAF=90 RE=3 BF=150
.MODEL QOP PNP VAF=90 RE=3 BF=150
.MODEL QIN NPN BF=2000 RB=12.1 KF=3E-16
.MODEL QIP PNP BF=2000 RB=12.1 KF=3E-16
.MODEL DVN D KF=1.5E-15
.MODEL DIN D KF=9E-16
.MODEL DD D
.MODEL NEN NMOS KP=200U VTO=0.5 IS=1E-18
.MODEL NEO NMOS KP=200U VTO=0.8 IS=1E-18
.ENDS
* END MODEL OPA1632
